US07271264B2
To a solution of [2-(2-[1,3]dioxolan-2-yl-phenyl)-6-methoxy-benzo[b]thiophen-3-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (crude) in THF (15 mL), add HCl (2 mL, 5M) and water (2 mL). Heat the mixture to reflux for 30 min. Dilute with CH2Cl2 and quench with aq. NaHCO3. Wash the organic phase with water and brine, dry over MgSO4, filter and concentrate. Purify the crude product by flash chromatography (0-10% (2M NH3 in MeOH)/CH2Cl2) to afford 2-{6-methoxy-3-[4(2-piperidin-1-yl-ethoxy)-benzoyl]-benzo[b]thiophen-2-yl}-benzaldehyde (410 mg) which is contaminated with unidentified byproducts and is used without further purification.

reactant | [2-(2-[1,3]dioxolan-2-yl-phenyl)-6-methoxy-benzo[b]thiophen-3-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | O1C(OCC1)C1=C(C=CC=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC=C(C=C2)OCCN2CCCCC2 | C32H33NO5S
reactant | HCl | 5M, 2 mL | Cl | ClH
reactant | water | 2 mL | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-{6-methoxy-3-[4(2-piperidin-1-yl-ethoxy)-benzoyl]-benzo[b]thiophen-2-yl}-benzaldehyde | 410 mg | COC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=C(C=O)C=CC=C2)C1 | C30H29NO4S
